US07709481B2
2.0 g palladium on charcoal (10%) were added to a solution of 22.7 g 4-Carbamoyl-1-phenyl-pyridinium hydrochloride in 500 ml ethanol EtOH. The reaction mixture was stirred at room temperature under an atmosphere of hydrogen at 3 bar for one hour. The catalyst was filtered off through a pad of celite and washed with ethanol. The filtrate was evaporated in vacuo. The resulting residue was purified by flash chromatography on silica gel with the eluent ethyl acetate:methanol=9:1=>4:1 to obtain 6.9 g 1-Phenyl-piperidine-4-carboxylic acid amide as a solid.

reactant | 4-Carbamoyl-1-phenyl-pyridinium hydrochloride | 22.7 g | Cl.C(N)(=O)C1=CC=[N+](C=C1)C1=CC=CC=C1
catalyst | palladium on charcoal | 2.0 g | [Pd] | Pd
solvent | ethanol EtOH | 500 ml | C(C)O.CCO | 2C2H6O
product | 1-Phenyl-piperidine-4-carboxylic acid amide | 6.9 g | C1(=CC=CC=C1)N1CCC(CC1)C(=O)N | C12H16N2O
